US05432195
Step 2: 2-[1-Hydroxy-2-(4-hydroxymethylphenoxy)ethyl]-5-isopropylbenzofuran
5-Isopropyl-2-(4-formylphenoxyacetyl)benzofuran (18.1 g) was dissolved in 200 ml of methanol. Sodium borohydride (2 g) was added thereto with stirring and cooling with ice and the mixture was stirred for 1 hour. The reaction mixture was poured into aqueous solution of hydrochloric acid and the crystals separated out therefrom were collected by filtration followed by recrystallization from ethyl acetate/n-hexane to give 16.5 g of crystals. M.p. 98°-100° C.

reactant | 5-Isopropyl-2-(4-formylphenoxyacetyl)benzofuran | 18.1 g | C(C)(C)C=1C=CC2=C(C=C(O2)C(COC2=CC=C(C=C2)C=O)=O)C1 | C20H18O4
reactant | Sodium borohydride | 2 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
product | 2-[1-Hydroxy-2-(4-hydroxymethylphenoxy)ethyl]-5-isopropylbenzofuran | 16.5 g | OC(COC1=CC=C(C=C1)CO)C=1OC2=C(C1)C=C(C=C2)C(C)C | C20H22O4
